US06706712B2
The material from above benzyl (cis)-2-[(2-{[4-(aminosulfonyl)benzoyl]amino}cyclohexyl)amino]-2-oxoethylcarbamate (217 mg) was dissolved in 30% HBr/AcOH (5 mL) at rt. After 1 h, Et2O was added and the solid was collected to give N-(cis)-{2-[(aminoacetyl)amino]cyclohexyl}-4-(aminosulfonyl)benzamide hydrogen bromide. MS found: (M+H)+=355.2.

reactant | benzyl (cis)-2-[(2-{[4-(aminosulfonyl)benzoyl]amino}cyclohexyl)amino]-2-oxoethylcarbamate | 217 mg | NS(=O)(=O)C1=CC=C(C(=O)N[C@@H]2[C@@H](CCCC2)NC(CNC(OCC2=CC=CC=C2)=O)=O)C=C1 | C23H28N4O6S
reactant | Et2O | CCOCC | C4H10O
reactant | HBr AcOH | 5 mL | Br.CC(=O)O
product | N-(cis)-{2-[(aminoacetyl)amino]cyclohexyl}-4-(aminosulfonyl)benzamide hydrogen bromide | Br.NCC(=O)N[C@@H]1[C@@H](CCCC1)NC(C1=CC=C(C=C1)S(=O)(=O)N)=O | InChI=1S/C15H22N4O4S.BrH/c16-9-14(20)18-12-3-1-2-4-13(12)19-15(21)10-5-7-11(8-6-10)24(17,22)23;/h5-8,12-13H,1-4,9,16H2,(H,18,20)(H,19,21)(H2,17,22,23);1H/t12-,13+;/m0./s1
